US04508727
4.3 g of benzyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate and 200 mg of palladium black are treated in the same manner as described in Example 1-(2), whereby 2.81 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-carboxy-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid are obtained as colorless crystals. Yield: 90.9%

reactant | benzyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate | 4.3 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)OCC1=CC=CC=C1)C([C@H](C)N[C@@H](CCCCCCCC)C(=O)OCC1=CC=CC=C1)=O)=O | C38H47N3O6
catalyst | palladium black | 200 mg | [Pd] | Pd
product | (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-carboxy-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 2.81 g, Yield: 90.9% | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCCCCCCC)C(=O)O)=O)=O | C24H35N3O6
